US07569699B2
In DMF (130 ml), (2R,3R)-3-(2,4-difluorophenyl)-3,4-epoxy-2-methanesulfonyloxybutane (82.8 g, 0.3 mol) and 1,2,4-triazole (26.7 g, 0.39 mol) were dissolved and heated to about 60° C. with stirring. 20% aqueous sodium hydroxide solution (103.8 g, 0.37 mol) was dropped thereto over about 1.5 hours and further stirred for 7 hours at the same temperature for the reaction. After the reaction, the mixture was cooled and toluene (150 ml) was added thereto. The obtained mixture was neutralized (pH 7-8) with 35% hydrochloric acid and subjected to phase separation. The water layer was extracted with toluene (150 ml) three times. The combined toluene layer was washed with diluted hydrochloric acid, aqueous sodium hydrogen carbonate solution and water subsequently, and the solvent was distilled off under a reduced pressure. The concentrated residue was subjected to recrystallization from a mixed solvent of toluene/heptane (20/80; v/v, 400 ml) to give (2R,3S)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane (27.1 g, yield 36.0%, optical purity (HPLC condition-1) 100% e.e., mp 89° C.).

reactant | (2R,3R)-3-(2,4-difluorophenyl)-3,4-epoxy-2-methanesulfonyloxybutane | 0.3 mol, 82.8 g | FC1=C(C=CC(=C1)F)[C@]1([C@@H](C)OS(=O)(=O)C)CO1 | C11H12F2O4S
reactant | 1,2,4-triazole | 0.39 mol, 26.7 g | N1N=CN=C1 | C2H3N3
reactant | sodium hydroxide | 0.37 mol, 103.8 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 130 ml | CN(C)C=O | C3H7NO
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | (2R,3S)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane | 27.1 g, yield 36.0% | FC1=C(C=CC(=C1)F)[C@@]1(O[C@H]1C)CN1N=CN=C1 | C12H11F2N3O
